US07842685B2
A 1000 mL rbf was charged with 1-phenylvinylboronic acid hydrate (36.7 g, 221 mmol), (amphos)2PdCl2 (3.26 g, 4.60 mmol), and 5-chloro-2-methylthiazolo[5,4-b]pyridine (34.0 g, 184 mmol) under argon. Dioxane (200 mL) was added followed by a solution of potassium carbonate (61.1 g, 442 mmol) in 60 mL water, and the reaction was fitted with a water cooled reflux condenser and flushed with argon. The resulting slurry was heated to 90° C. for 3 h. The reaction mixture was allowed to cool, and was diluted with 200 mL MTBE and water. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give a thick brown oil. The oil was purified by silica gel chromatography, 0-30% EA/hexanes to give 2-methyl-5-(1-phenylvinyl)thiazolo[5,4-b]pyridine as a brown oil. MS (ESI) m/z: calculated: 252.1; Observed: 253.1 (M++1).

reactant | 1-phenylvinylboronic acid hydrate | 221 mmol, 36.7 g | O.C1(=CC=CC=C1)C(=C)B(O)O
reactant | 5-chloro-2-methylthiazolo[5,4-b]pyridine | 184 mmol, 34.0 g | ClC1=CC=C2C(=N1)SC(=N2)C | C7H5ClN2S
reactant | Dioxane | 200 mL | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | 442 mmol, 61.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 60 mL | O | H2O
product | 2-methyl-5-(1-phenylvinyl)thiazolo[5,4-b]pyridine | CC=1SC2=NC(=CC=C2N1)C(=C)C1=CC=CC=C1 | C15H12N2S
